US07166613B2
3-Ethyl-7,8-dihydrofuro[2,3-g]indole
To a stirred mixture of 3-acetyl-7,8-dihydrofuro[2,3-g]indole (721 mg, 3.58 mmol) in tetrahydrofuran (25 mL) under an atmosphere of Ar at ambient temperature was added, over 5 min, borane (1.0 M in THF; 18 mL, 18 mmol). The resultant mixture was stirred at ambient temperature for 30 min, then heated to reflux for 2 h before cooling to room temperature. Acetone (25 mL) was added and the mixture was heated to reflux for a further 30 min. The mixture was cooled to room temperature then all solvent was removed in vacuo. Methanol (40 mL) was added, and the mixture was again heated to reflux for 30 min, then cooled to room temperature followed by solvent removal in vacuo. Purification by flash column chromatography [SiO2; ethyl acetate-heptane (1:4)] afforded the product (302 mg, 45%) as a white solid: m.p. 91–92.5° C.; Found: C, 76.90; H, 7.02; N, 7.44%. C12H13NO requires: C, 76.98; H, 7.00; N, 7.48%.

reactant | 3-acetyl-7,8-dihydrofuro[2,3-g]indole | 3.58 mmol, 721 mg | C(C)(=O)C1=CNC2=C3C(=CC=C12)OCC3 | C12H11NO2
reactant | borane | 18 mmol, 1.0 M, 18 mL | B | BH3
reactant | Acetone | 25 mL | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3-Ethyl-7,8-dihydrofuro[2,3-g]indole | 302 mg, 45% | C(C)C1=CNC2=C3C(=CC=C12)OCC3 | C12H13NO
